### ISSUE TITLE
Cannot destruct hypotheses as pure with `icases`

### ISSUE THREAD

**Issue by lzy0505** [larsk21/iris-lean#153]
I expect `icases` to work in the following exampe:
```
/-- error: icases: iprop(⌜H x⌝ ∗ P) is not an existential quantifier -/
#guard_msgs in
example [BI PROP] (P: PROP) (H: Bool → Prop) :
  (∃ (x: Bool), ⌜H x⌝ ∗ P) ⊢ iprop(True) := by
  iintro H
  icases H with ⟨%x, %H, P⟩
```

**Comment by MackieLoeffel** [comment]
This error is because `PROP` is not affine and thus you cannot eliminate the pure assumption. Iris Rocq gives a similar error:
```coq
Lemma test (PROP : bi) (H : bool → Prop) (P : PROP) :
  (∃ (x: bool), ⌜H x⌝ ∗ P) ⊢ True. 
Proof.
  iIntros "H".
(* Error: Tactic failure: iExistDestruct: cannot destruct (⌜H x⌝ ∗ P)%I. *)
  iDestruct "H" as (x H) "P".
```
